US08217032B2
Methanesulfonic acid 8-fluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-thia-chrysen-2-yl ester
Charge a flask with (s)-(−)-α,α-diphenyl-2-pyrrolidinemethanol (380 mg, 1.5 mmol), dissolve with 1M borane in THF (60 mL, 60 mmol), purge with nitrogen and heat to 45° C. Dissolve methanesulfonic acid 6-(4-fluoro-2-methylsulfanyl-phenyl)-5-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester (9.0 g, 15.1 mmol) in dry THF (80 mL) and add to the borane solution via syringe pump over 2 hours. After the addition is complete, add ethanolamine (18.2 mL, 300 mmol) and stir at 45° C. for 3 hours. Pour the reaction into saturated aqueous ammonium chloride and extract with methylene chloride. Dry over sodium sulfate, filter and concentrate to a beige foam. Dissolve the crude foam in dry THF (150 mL). Add triethylamine (12.4 mL, 90 mmol) and methanesulfonyl chloride (7.0 mL, 90 mmol) and heat to reflux under nitrogen. Add more methanesulfonyl chloride (0.45 mL, 5.8 mmol) after 2 hours to drive the reaction to completion. Pour the reaction into saturated aqueous sodium bicarbonate and extract twice with methylene chloride. Dry the combined organic layers with sodium sulfate, filter and concentrate. Purify the residue on silica gel (0% to 4% methanol in methylene chloride) to yield 7.5 g (88%) of the title compound. HPLC Rt (0.01% heptafluorobutyric acid:1.0% isopropylalcohol:water is mobile phase A and 0.01% heptafluorobutyric acid:1.0% isopropylalcohol:acetonitrile is mobile phase B; gradient method 25 to 95% B, Purity@254 nm)=2.96 min (100%); mass spectrum (ion spray): m/z=564.3 (M+H).

reactant | (s)-(−)-α,α-diphenyl-2-pyrrolidinemethanol | 1.5 mmol, 380 mg | C1(=CC=CC=C1)C(O)([C@H]1NCCC1)C1=CC=CC=C1 | C17H19NO
reactant | borane | 1M | B | BH3
reactant | methanesulfonic acid 6-(4-fluoro-2-methylsulfanyl-phenyl)-5-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester | 15.1 mmol, 9.0 g | FC1=CC(=C(C=C1)C=1C(=C2C=CC(=CC2=CC1)OS(=O)(=O)C)C(C1=CC=C(C=C1)OCCN1CCCCC1)=O)SC | C32H32FNO5S2
reactant | ethanolamine | 300 mmol, 18.2 mL | C(O)CN | C2H7NO
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | triethylamine | 90 mmol, 12.4 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 90 mmol, 7.0 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonyl chloride | 5.8 mmol, 0.45 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mmol, 60 mL | C1CCOC1 | C4H8O
product | Methanesulfonic acid 8-fluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-thia-chrysen-2-yl ester | 7.5 g, 88% | FC=1C=C2SC(C3=C4C=CC(=CC4=CC=C3C2=CC1)OS(=O)(=O)C)C1=CC=C(C=C1)OCCN1CCCCC1 | C31H30FNO4S2
